US07230098B2
To a stirring solution of 4-(6-amino-5-hydroxy-pyridin-3-yl)-benzoic acid methyl ester (2.3 g, 9.3 mmol) in CH2Cl2 (180 mL) was added N,N-diisopropylethylamine (3.2 mL, 0.019 mol), 4-methyl-benzenesulfonyl chloride (2.66 g, 0.014 mol), and PS-DMAP (catalytic amount). The reaction was stirred at ambient temperature for 6 hr then filtered to remove the resin. The resin was washed with CH2Cl2 (3×20 mL), and the combined fractions were washed with 10% citric acid (100 mL), saturated NaCl (100 mL), dried (Na2SO4) and filtered and concentrated in vacuo. The resulting crude material was purified by column chromatography (silica gel, 100% CH2Cl2 to 95:5 CH2Cl2:MeOH) and the fractions containing the desired product were combined and concentrated in vacuo to yield 4-[6-Amino-5-(toluene-4-sulfonyloxy)-pyridin-3-yl]-benzoic acid methyl ester (3.3 g, 8.2 mmol, 88%). 1H NMR (CDCl3, 300 MHz) δ 2.47 (s, 3H), 3.93 (s, 3H), 4.81–4.88 (brs, 2H), 7.36–7.44 (m, 5H), 7.81 (d, 2H, J, 8.3 Hz), 8.05 (d, 2H, J, 8.4 Hz), 8.19–8.27 (brs, 1H).

reactant | 4-(6-amino-5-hydroxy-pyridin-3-yl)-benzoic acid methyl ester | 9.3 mmol, 2.3 g | COC(C1=CC=C(C=C1)C=1C=NC(=C(C1)O)N)=O | C13H12N2O3
reactant | N,N-diisopropylethylamine | 0.019 mol, 3.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-methyl-benzenesulfonyl chloride | 0.014 mol, 2.66 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | CH2Cl2 | 180 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-[6-Amino-5-(toluene-4-sulfonyloxy)-pyridin-3-yl]-benzoic acid methyl ester | 8.2 mmol, 3.3 g, 88% | COC(C1=CC=C(C=C1)C=1C=NC(=C(C1)OS(=O)(=O)C1=CC=C(C=C1)C)N)=O | C20H18N2O5S
